US08114872B2
1-(6-Chloropyridin-3-yl)ethanamine
Cool a solution of sodium borohydride (2.96 g, 82.65 mmol) and titanium tetrachloride (1 M in toluene, 41.33 mL, 41.33 mmol) in 50 mL of dry 1,2-dimethoxyethane to 0° C. under N2. Add 1-(6-chloropyridin-3-yl)ethanone oxime (3.52 g, 20.66 mmol) to the solution dropwise. Stir the mixture overnight at RT. Quench the reaction with 200 mL of water. Basify the mixture with ammonium hydroxide. Subsequently, extract the crude product into toluene and ethyl acetate. Separate the layers and dry the organic layer over sodium sulfate. Concentrate in vacuo to give the crude product (1.24 g, 38%). 1H NMR (400 MHz, CDCl3) δ 3.53 (s, 3H), 5.23 (s, 2H), 7.39 (d, J=4.0 Hz, 1H), 7.96 (d, J=1.6 Hz, 1H).

reactant | sodium borohydride | 82.65 mmol, 2.96 g | [BH4-].[Na+]
reactant | 1-(6-chloropyridin-3-yl)ethanone oxime | 20.66 mmol, 3.52 g | ClC1=CC=C(C=N1)C(C)=NO | C7H7ClN2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
catalyst | titanium tetrachloride | 41.33 mmol, 1 M, 41.33 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 1-(6-Chloropyridin-3-yl)ethanamine | 1.24 g, 38% | ClC1=CC=C(C=N1)C(C)N | C7H9ClN2
